US07384951B2
a) 6-[(3,5-Dimethyl-4-isothiazolyl)hydroxymethyl]-1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-5-carboxylic acid ethyl ester
Prepared by the method of example 15 part a) using 1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid ethyl ester, and 3,5-dimethyl-4-isothiazolecarboxaldehyde.

reactant | 1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxothieno[2,3-d]pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CSC=2N(C(N(C(C21)=O)C)=O)C(C)C | C13H16N2O4S
reactant | 3,5-dimethyl-4-isothiazolecarboxaldehyde | CC1=NSC(=C1C=O)C | C6H7NOS
product | 6-[(3,5-Dimethyl-4-isothiazolyl)hydroxymethyl]-1,2,3,4-tetrahydro-3-methyl-1-(1-methylethyl)-2,4-dioxo-thieno[2,3-d]pyrimidine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(SC=2N(C(N(C(C21)=O)C)=O)C(C)C)C(O)C=2C(=NSC2C)C | C19H23N3O5S2
